US05665725
4-(1,2-Benzisothiazol-3-yl)butyric acid (C. Branca et al, Phytochemistry 14, 1975, 2545) (17 g) was dissolved in dry toluene (500 ml) and cooled to -10° C. Di-tertbutyl aluminium hydride (120 ml of an 1M solution in toluene) was added dropwise at -10° C. followed by stirring for 2 h at room temperature. Dilute sulfuric acid (2M, 300 ml) was added, the phases separated, the aqueous phase extracted with ether, and the combined organic phases dried over magnesium sulfate. Removal of solvents in vacuo left a viscous oil which was purified by column chromatography (silica gel, eluent:ether). 4-(1,2-Benzisothiazol-3-yl)-1-butanol (5.2 g) was obtained as an oil.

reactant | 4-(1,2-Benzisothiazol-3-yl)butyric acid | 17 g | S1N=C(C2=C1C=CC=C2)CCCC(=O)O | C11H11NO2S
reactant | Di-tertbutyl aluminium hydride | [H-].C(C)(C)(C)[Al+]C(C)(C)C
reactant | sulfuric acid | 2M, 300 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,2-Benzisothiazol-3-yl)-1-butanol | 5.2 g | S1N=C(C2=C1C=CC=C2)CCCCO | C11H13NOS
